US07045544B2
{2-(Anilinecarbonyl)-5-[(3,3-dimethylbutanoyl)amino]-1H-indol-1-yl}acetic acid
70 mg (0.15 mmol) of tert-butyl {2-(anilinecarbonyl)-5-[(3,3-dimethylbutanoyl)-amino]-1H-indol-1-yl}acetate from Example LIII, 0.50 ml of trifluoroacetic acid and 1 ml of dichloromethane are stirred together at RT for one hour. The solvent is removed under reduced pressure and the residue is dried in vacuo.

reactant | tert-butyl {2-(anilinecarbonyl)-5-[(3,3-dimethylbutanoyl)-amino]-1H-indol-1-yl}acetate | 0.15 mmol, 70 mg | N(C1=CC=CC=C1)C(=O)C=1N(C2=CC=C(C=C2C1)NC(CC(C)(C)C)=O)CC(=O)OC(C)(C)C | C27H33N3O4
reactant | trifluoroacetic acid | 0.50 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | {2-(Anilinecarbonyl)-5-[(3,3-dimethylbutanoyl)amino]-1H-indol-1-yl}acetic acid | N(C1=CC=CC=C1)C(=O)C=1N(C2=CC=C(C=C2C1)NC(CC(C)(C)C)=O)CC(=O)O | C23H25N3O4
